US08431735B2
Reprocessing of Melphalan 2 HCl
Place 200˜1000 g of Melphalan HCl (IM1036) into the vacuum flask, and quickly mount the vacuum flask to a Lyophilizer with the pressure preset at 225 mmHg and temperature at <−40° C. The freeze-drying process is continued overnight until the water content meets the specification requirement. The vacuum is released and the product is weighed. The product is packed in polypropylene bags inside a sealed aluminum pouch and stored at 2˜8° C. in a refrigerator, to protect it from light and moisture. The yield is 96˜99% of theoretical yield.

reactant | Melphalan HCl | 200˜1000 g | C1=CC(=CC=C1C[C@@H](C(=O)O)N)N(CCCl)CCCl.Cl
reactant | aluminum | [Al] | Al
solvent | polypropylene | C(C(C)[*:2])[*:1]
solvent | water | O | H2O
product | Melphalan | yield is 96˜99% | C1=CC(=CC=C1C[C@@H](C(=O)O)N)N(CCCl)CCCl | C13H18Cl2N2O2
